US06031015
Synthesis of diethyl-2,5-bis-(10-acetoxydecoxy)terephthalate
46.4 g (67.0 mmol) diethyl-2,5-bis-(10-bromodecoxy)terephthalate, 65.8 g (671 mmol) potassium acetate and 3.4 g (8.5 mmol) Aliquat 336® in 350 ml absolute acetonitrile are heated under N2 under reflux for 48 hours. After distilling off the solvent, the reaction mixture is taken up in 300 ml chloroform, insoluble salts are filtered off and the filtrate is washed twice with 150 ml water. The organic phase is dried over Na2SO4 and the solvent is then distilled off. 300 ml petroleum ether are added to the remaining, oily residue, the product crystallising out after 16 hours at -20° C. It is then recrystallized from ethanol.

reactant | diethyl-2,5-bis-(10-bromodecoxy)terephthalate | 67.0 mmol, 46.4 g | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)OCCCCCCCCCCBr)OCCCCCCCCCCBr)=O | C32H52Br2O6
reactant | potassium acetate | 671 mmol, 65.8 g | C(C)(=O)[O-].[K+]
catalyst | Aliquat 336 | 8.5 mmol, 3.4 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
product | diethyl-2,5-bis-(10-acetoxydecoxy)terephthalate | C(C)OC(C1=C(C=C(C(=O)OCC)C(=C1)OCCCCCCCCCCOC(C)=O)OCCCCCCCCCCOC(C)=O)=O | C36H58O10
